US07750002B2
Amine preparation: to BOC-piperazine (4 g) in DCM (40 mL) was added trifluoroacetic anhydride (6.06 mL) and triethylamine (3.29 mL). After stirring overnight the reaction mixture was diluted with diluted with DCM, washed with sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo to yield 4-(2,2,2-trifluoro-acetyl)-piperazine-1-carboxylic acid tert-butyl ester (6.06 g).

reactant | BOC-piperazine | 4 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | trifluoroacetic anhydride | 6.06 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 3.29 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,2,2-trifluoro-acetyl)-piperazine-1-carboxylic acid tert-butyl ester | 6.06 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(F)(F)F)=O | C11H17F3N2O3
